* c:\users\kumar\esim-workspace\dickson_ckt\dickson_ckt.cir

.include NMOS-180nm.lib
m2 v1 v1 v2 gnd CMOSN W=240nm L=180nm M=1
m3 v2 v2 v3 gnd CMOSN W=240nm L=180nm M=1
m4 v3 v3 v4 gnd CMOSN W=240nm L=180nm M=1
m5 v4 v4 out gnd CMOSN W=240nm L=180nm M=1
c1  v1 clk1 1p
c2  v2 clk2 1p
c3  v3 clk1 1p
c4  v4 clk2 1p
cout1  out gnd 1p
v2  clk1 gnd pulse(0 1.8 10n 0 0 10n 20n)
v3  clk2 gnd pulse(0 1.8 0 0 0 10n 20n)
v1 in gnd  dc 1.8
r1  out gnd 1000k
m1 in in v1 gnd CMOSN W=240nm L=180nm M=1
* u1  out plot_v1
.tran 1e-09 10000e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
